US07960552B2
Sodium periodate (2.39 g, 11.15 mmol) was added to 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (870.4 mg, 3.72 mmol) and ammonium acetate (859.8 mg, 11.15 mmol) in acetone and water (2:1, 36 mL) at room temperature. The mixture was stirred for sixty-eight hours, then filtered, and concentrated. Sodium chloride was added to the filtrate, and it was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, then filtered and concentrated. The residue was purified by silica gel chromatography eluting with 1:4 ethyl acetate:hexanes to give 275.7 mg (49%) of (4-hydroxy-2-methylphenyl)boronic acid as a solid. 1H NMR (400 MHz, d6-DMSO): δ 9.28 (s, 1H), 7.70 (d, J=9 Hz, 1H), 6.56-6.52 (m, 2H), 2.55 (s, 3H). ESI-LCMS m/z 151 (M−H)−.

reactant | Sodium periodate | 11.15 mmol, 2.39 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 3.72 mmol, 870.4 mg | CC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)O | C13H19BO3
reactant | ammonium acetate | 11.15 mmol, 859.8 mg | C(C)(=O)[O-].[NH4+]
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 36 mL | O | H2O
product | (4-hydroxy-2-methylphenyl)boronic acid | 275.7 mg, 49% | OC1=CC(=C(C=C1)B(O)O)C | C7H9BO3
